US04279912
1.3 g of 2-amino-4-chloro-7-methoxyquinoline were dissolved in 20 ml of dimethoxyethane and 1.3 g of ethyl bromopyruvate were added thereto. The mixture was stirred at room temperature for 2 hours and the crystalline intermediate thus formed was filtered off, washed with ether and then was dissolved in 20 ml of ethanol. The resultant solution was refluxed for 3 hours and ethyl 5-chloro-8-methoxyimidazo-[1,2-a]-quinoline-2-carboxylate melting at 215°-216° C. was isolated by the procedure of Example 9.

reactant | 2-amino-4-chloro-7-methoxyquinoline | 1.3 g | NC1=NC2=CC(=CC=C2C(=C1)Cl)OC | C10H9ClN2O
reactant | ethyl bromopyruvate | 1.3 g | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | dimethoxyethane | 20 ml | C(OC)COC | C4H10O2
product | ethyl 5-chloro-8-methoxyimidazo-[1,2-a]-quinoline-2-carboxylate | ClC1=CC=2N(C3=CC(=CC=C13)OC)C=C(N2)C(=O)OCC | C15H13ClN2O3
